US06340759B1
3-Amino-1-bromoisoquinoline (10.3 g) and 1-ethylpiperazine (10.5 g) were reacted in the presence of potassium carbonate (13.8 g) in N,N-dimethylformamide (80 ml) at room temperature for 3 days. The reaction solution was concentrated, followed by the addition of purified water (500 ml), and the resulting mixture was stirred under ice-cooling for 1 hr. The resulting ocherous precipitates were collected by filtration, washed with a small amount of ice-water and hexane, and then dried at 50° C. under reduced pressure, to give 3-amino-1-(4-ethylpiperazin-1-yl)isoquinoline (4.5 g).

reactant | 3-Amino-1-bromoisoquinoline | 10.3 g | NC=1N=C(C2=CC=CC=C2C1)Br | C9H7BrN2
reactant | 1-ethylpiperazine | 10.5 g | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-amino-1-(4-ethylpiperazin-1-yl)isoquinoline | 4.5 g | NC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H20N4
